US06462032B1
5′-(1-Methyl-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one
A mixture of 5′-(1H-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one (0.46 g, 1.7 mmol) and potassium carbonate (5 eq, 1.18 g, 8.6 mmol) in DMF (2 mL) at room temperature was treated with a solution of iodomethane (3 eq, 0.32 g, 5.1 mnmol) in DMF (1 mL). The solution was stirred 16 h at room temperature, then poured into water (10 mL). EtOAC (15 mL) was added, the layers were separated, and the aqueous layer was extracted with EtOAc (2×100 mL). The organic layers were combined, washed with brine (15 mL) and dried over MgSO4. The solution was filtered, concentrated in vacuo, and the residue was purified by flash column chromatography on silica gel (eluting with 40% EtOAc/hexane) to give the subtitled compound (0.44 g, 76%) as a white powder, mp 148-9° C. 1H NMR (DMSO-d6; 400 MHz) δ 1.50-1.62 (m, 3H), 1.62-1.82 (m, 5H), 1.83-1.94 (m, 2H), 3.11 (s, 3H), 6.08 (m, 1H), 6.42 (m, 1H), 6.79 (m, 1H), 6.97 (d, 1H, J=8.1 Hz), 7.51 (dd, 1H, J=8.1, 1.8 Hz), 7.70 (d. 1H, J=1.7 Hz), 11.20 (br s, 1H). Anal. Calcd for C18H20N2O,: C, 77.11; H, 7.19; N, 9.98. Found: C, 76.44; H, 7.21; N, 9.96.

reactant | 5′-(1H-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one | 1.7 mmol, 0.46 g | N1C(=CC=C1)C=1C=C2C3(C(NC2=CC1)=O)CCCCC3 | C17H18N2O
reactant | potassium carbonate | 8.6 mmol, 1.18 g, 5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.32 g, 3 eq | IC | CH3I
reactant | water | 10 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5′-(1-Methyl-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one | 0.44 g, 76% | CN1C(=CC=C1)C=1C=C2C3(C(NC2=CC1)=O)CCCCC3 | C18H20N2O
